US05216015
Step 2: Preparation of 17β-acetyl-3α,7α,12α-trihydroxy-5β-androstane
A mixture of 17β-acetyl-3α,7α,12α-triacetoxy-5β-androstane (9.48 g) and lithium hydroxide monohydrate (4.0 g) in methanol (20 ml), water (20 ml) and tetrahydrofuran (20 ml) is stirred at room temperature for about 19 hours, concentrated in vacuo, diluted with ethyl acetate and washed with brine. The organic solution is dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude is purified by flash chromatography in ethyl acetate to give the desired product.

reactant | 17β-acetyl-3α,7α,12α-triacetoxy-5β-androstane | 9.48 g | C(C)(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](C[C@@H]3C[C@@H](CC[C@]3(C)[C@H]1C[C@@H]2OC(C)=O)OC(C)=O)OC(C)=O | C27H40O7
reactant | lithium hydroxide monohydrate | 4.0 g | O.[OH-].[Li+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 17β-acetyl-3α,7α,12α-trihydroxy-5β-androstane | C(C)(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](C[C@@H]3C[C@@H](CC[C@]3(C)[C@H]1C[C@@H]2O)O)O | C21H34O4
